US07919519B2
5-hydroxy benzofuran (step 1 of Scheme 4)
To an ice-cooled solution of 5-methylbenzofuran (0.5 g, 3.37 mmol) in DCM (7 mL) was added boron tribromide (3.4 mL, 3.37 mmol, 1M in DCM). The light brown solution was stirred at 0° C. for 1 h, another equivalent of boron tribromide (3.4 mL) was then added. The mixture was stirred at room temperature for 2 h. TLC analysis indicated the completion of the reaction. The mixture was poured into ice and the pH was adjusted to 7 with Na2CO3. The aqueous was extracted with DCM (×2). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated. The resulting light brown sold gave the satisfactory purity without further purification for next step: 0.36 g (79.6% yield), 1H NMR (400 MHz, CD3OD) δ 7.59 (d, J=2.0 Hz, 1H), 7.35 (d, J=9.2 Hz, 1H), 7.01 (d, J=2.4 Hz, 1H), 6.82 (dd, J=8.8 Hz, J=2.8 Hz, 1H), 6.67 (m, 1H), 4.73 (s, 1H).

reactant | 5-methylbenzofuran | 3.37 mmol, 0.5 g | CC=1C=CC2=C(C=CO2)C1 | C9H8O
reactant | boron tribromide | 3.37 mmol, 1M, 3.4 mL | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 3.4 mL | B(Br)(Br)Br | BBr3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 7 mL | C(Cl)Cl | CH2Cl2
product | 5-hydroxy benzofuran | 79.6% yield | OC=1C=CC2=C(C=CO2)C1 | C8H6O2
